US05955632
A solution of 27.4 g of 3β-acetoxy-5β-pregn-14-en-20-one (Bach, G. et al, Can J. Chem. 1968, 46, 733) and p-toluensulphonyl hydrazide (17.1 g) in AcOH (50 mL) was stirred at room temp. for 4 hrs. The solvent was evaporated to dryness under reduced pressure; the residue obtained was dissolved in MeOH (600 mL) and zinc iodide (3.0 g) was added. To this solution sodium cyanoborohydride (14.4 g) was added portionwise and the temperature was raised to the boiling point of the reaction mixture. After 4 hrs the solvent was evaporated to dryness under reduced pressure, the crude product was dissolved in ethyl acetate and neutralised with 0.1 N NaOH; the organic layer was dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The residue was purified by flash-chromatography (SiO2) using n-hexane/ethyl acetate 95/5 as eluant to give 18.2 g of 3β-acetoxy-5β-pregn-14-ene as a white solid.

reactant | 3β-acetoxy-5β-pregn-14-en-20-one | 27.4 g | C(C)(=O)O[C@@H]1C[C@H]2CC[C@H]3C4=CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C23H34O3
reactant | sodium cyanoborohydride | 14.4 g | C(#N)[BH3-].[Na+]
solvent | AcOH | 50 mL | CC(=O)O | C2H4O2
solvent | MeOH | 600 mL | CO | CH4O
catalyst | zinc iodide | 3.0 g | [I-].[Zn+2].[I-]
product | 3β-acetoxy-5β-pregn-14-ene | 18.2 g | C(C)(=O)O[C@@H]1C[C@H]2CC[C@H]3C4=CC[C@H](CC)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C23H36O2
